US05442047
A stock solution of N-formyl-(S)-isoserine was prepared by stirring 20 g (124.2 mmoles) of N,O-diformyl-(S)-isoserine in a mixture of methanol (85 ml) and pyridine (15 ml, 1.5 equiv.) at room temperature for 14-16 hrs. The completion of the reaction was judged by 1HNMR.

reactant | N,O-diformyl-(S)-isoserine | 124.2 mmoles, 20 g | C(=O)NC[C@H](O)C(=O)OC=O | C5H7NO5
reactant | pyridine | 15 ml, 1.5 equiv. | N1=CC=CC=C1 | C5H5N
solvent | methanol | 85 ml | CO | CH4O
product | N-formyl-(S)-isoserine | C(=O)NC[C@H](O)C(=O)O | C4H7NO4
